US07932246B2
N-Hydroxy 2-{6-[(2-diethylaminoethyl)naphthalen-2-ylmethylamino]-3-aza bicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide—Example 56
N-(1-Isobutoxyethoxy) 2-{6-[(2-diethylaminoethyl)naphthalen-2-ylmethylamino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide (18 mg, 0.03 mmol) was dissolved in dry DCM (3 ml) and treated with 4M HCl in dioxane (0.015 ml, 0.06 mmol). A white precipitate immediately formed. This was filtered and washed with DCM to give the title compound as a white solid (8 mg, 57%). LCMS purity 98%, m/z 475 [M+H]+, 1H NMR (300 MHz, CD3OD) δ: 1.39 (6H, t, J=7.2 Hz), 2.26 (2H, br s), 2.77 (1H, s), 3.37 (4H, m), 3.55 (2H, d, J=10.5 Hz), 3.81 (4H, br s), 3.93 (2H, br d, J=10.5 Hz), 4.71 (2H, br s), 7.61 (2H, m), 7.76 (1H, d, J=8.4 Hz), 7.95-8.04 (3H, m), 8.20 (1H, s), 8.71 (2H, s).

reactant | N-(1-Isobutoxyethoxy) 2-{6-[(2-diethylaminoethyl)naphthalen-2-ylmethylamino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide | 0.03 mmol, 18 mg | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(CC1=CC2=CC=CC=C2C=C1)CCN(CC)CC | C33H46N6O3
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 0.06 mmol, 0.015 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | N-Hydroxy 2-{6-[(2-diethylaminoethyl)naphthalen-2-ylmethylamino]-3-aza bicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide | 8 mg, 57% | ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(CC1=CC2=CC=CC=C2C=C1)CCN(CC)CC | C27H34N6O2
